US08232246B2
(2S,6S,13aS,14aR,16aS,Z)-ethyl 2-(4-bromophenylsulfonyloxy)-6-(tert-butoxycarbonylamino)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylate
A solution of (2S,6S,13aS,14aR,16aS,Z)-ethyl 6-(tert-butoxycarbonylamino)-2-hydroxy-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylate (22.1 g, 44.8 mmol) and DABCO (8.5 g, 76.7 mmol) in toluene (88 mL) may be stirred at room temperature. To this solution may be added a solution of 4-bromobenzene-1-sulfonyl chloride 17.2 g, 67.2 mmol) in toluene (44 mL). After the addition is complete the reaction mixture can be quenched with 10% aqueous sodium carbonate (110 mL) and the mixture stirred for 15 min. Tetrahydrofuran (44 mL) can be added and the mixture is washed with 0.5 M HCl, water, and then saturated aqueous sodium chloride. The organic layer may be dried over anhydrous magnesium sulfate, filtered, and evaporated under reduced pressure and dried to provide the title compound (27.7 g, 87% yield), which may be used without further purification.

reactant | (2S,6S,13aS,14aR,16aS,Z)-ethyl 6-(tert-butoxycarbonylamino)-2-hydroxy-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylate | 44.8 mmol, 22.1 g | C(C)(C)(C)OC(=O)N[C@H]1CCCCC\C=C/[C@H]2[C@](NC([C@H]3N(C1=O)C[C@H](C3)O)=O)(C2)C(=O)OCC | C25H39N3O7
reactant | DABCO | 76.7 mmol, 8.5 g | C1CN2CCN1CC2 | C6H12N2
reactant | 4-bromobenzene-1-sulfonyl chloride | 67.2 mmol, 17.2 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | toluene | 88 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 44 mL | C1(=CC=CC=C1)C | C7H8
product | (2S,6S,13aS,14aR,16aS,Z)-ethyl 2-(4-bromophenylsulfonyloxy)-6-(tert-butoxycarbonylamino)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylate | 27.7 g, 87% yield | BrC1=CC=C(C=C1)S(=O)(=O)O[C@H]1C[C@@H]2N(C([C@H](CCCCC\C=C/[C@H]3[C@](NC2=O)(C3)C(=O)OCC)NC(=O)OC(C)(C)C)=O)C1 | C31H42BrN3O9S
